### ISSUE TITLE
[MISFORMALISATION] `isFull_of_isFull` and `perm_uncontractedList` in `WickContraction.Perm` are false

### ISSUE THREAD

**Issue by pitmonticone** [HEPLean/HEPLean#992]
The lemmas `isFull_of_isFull` and `perm_uncontractedList` in `PhysLean/QFT/PerturbationTheory/WickContraction/Perm.lean` appear to be false as stated.

@Aristotle-Harmonic commented out the original false lemmas, added explanatory comments, and produced a proof witnessing the counterexample:

```lean
/- The original lemma `isFull_of_isFull` below is false as stated.

  Counterexample: any two non-grading-compliant contractions have zero `wickTerm`
  (by `timeContract_of_not_gradingCompliant`), hence are trivially `Perm`.
  A full non-grading-compliant contraction (e.g. pairing a bosonic with a fermionic
  field) is `Perm` with a non-full non-grading-compliant contraction,
  but `IsFull` does not transfer.

  See `perm_of_not_gradingCompliant` below for a proof that any two
  non-grading-compliant contractions are `Perm`. -/

-- @[sorryful]
-- lemma isFull_of_isFull (h : Perm φsΛ₁ φsΛ₂) (hf : IsFull φsΛ₁) : IsFull φsΛ₂ := by
--   sorry

/- The original lemma `perm_uncontractedList` below is false as stated.

  Counterexample: same as for `isFull_of_isFull`. Two non-grading-compliant
  contractions are `Perm` (both `wickTerm`s are zero), yet their uncontracted
  lists can differ in length (e.g. one is full with empty uncontracted list,
  the other has non-empty uncontracted list). -/

-- @[sorryful]
-- lemma perm_uncontractedList (h : Perm φsΛ₁ φsΛ₂) : [φsΛ₁]ᵘᶜ.Perm [φsΛ₂]ᵘᶜ := by
--   sorry

/-- Any two non-grading-compliant contractions of the same list are `Perm`,
  since both have `wickTerm = 0` (their `timeContract` vanishes). This shows
  that `Perm` alone is too weak to preserve structural properties like
  `IsFull` or the uncontracted list. -/
lemma perm_of_not_gradingCompliant
    (h₁ : ¬GradingCompliant φs φsΛ₁)
    (h₂ : ¬GradingCompliant φs φsΛ₂) :
    Perm φsΛ₁ φsΛ₂ := by
  unfold Perm wickTerm
  rw [timeContract_of_not_gradingCompliant φs φsΛ₁ h₁,
    timeContract_of_not_gradingCompliant φs φsΛ₂ h₂]
  simp
```

Co-authored-by: Aristotle (Harmonic) <aristotle-harmonic@harmonic.fun>

**Comment by jstoobysmith** [comment]
Agreed here. The lemma `isFull_of_isFull` needs to have the assumption that ` (h₁ : GradingCompliant φs φsΛ₁)` and 
`(h₂ : GradingCompliant φs φsΛ₂) `
